US06777419B1
1 equivalent of DMF and 1 equivalent of oxalyl chloride are dissolved in acetonitrile at 0°. 1 equivalent of 3-[7-(3-chloro-4-methoxybenzylamino)-1-methyl-3-propyl-1H-pyrazolo[4,3-d]pyrimidin-5-yl]propionamide is then added. The mixture is stirred for one hour. After customary working up, 3-[7-(3-chloro-4-methoxybenzylamino)-1-methyl-3-propyl-1H-pyrazolo[4,3-d]-pyrimidin-5-yl]propionitrile is obtained.

reactant | DMF | 1 equivalent | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 1 equivalent | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-[7-(3-chloro-4-methoxybenzylamino)-1-methyl-3-propyl-1H-pyrazolo[4,3-d]pyrimidin-5-yl]propionamide | 1 equivalent | ClC=1C=C(CNC=2C3=C(N=C(N2)CCC(=O)N)C(=NN3C)CCC)C=CC1OC | C20H25ClN6O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-[7-(3-chloro-4-methoxybenzylamino)-1-methyl-3-propyl-1H-pyrazolo[4,3-d]-pyrimidin-5-yl]propionitrile | ClC=1C=C(CNC=2C3=C(N=C(N2)CCC#N)C(=NN3C)CCC)C=CC1OC | C20H23ClN6O
